US06291452B1
To a solution of N-benzyloxycarbonyl-2-(benzotriazol-1-yl)glycine (14.11 g) in dry tetrahydrofuran (100 ml) were added oxalyl chloride (3.77 ml) and dimethylformamide (3 drops) under stirring at 0° C. in an ice-salt bath under nitrogen stream. After the mixture was stirred under the same conditions for 2 hours, a mixture of 2-acetyl-6-methylaniline (4.30 g) and N-methylmorpholine (8.74 g) in tetrahydrofuran (20 ml) was added dropwise for 20 minutes. After the addition was completed, the mixture was allowed to warm to ambient temperature with stirring. Tetrahydrofuran was removed in vacuo and the residue was dissolved in ethyl acetate. The mixture was washed with water twice and dried over magnesium sulfate. Removal of the solvent gave an intermediate product as an oil, to which was added 20% methanolic ammonia (75 ml) and stirred at ambient temperature overnight. The resultant precipitate was collected by filtration and washed with cold methanol and diisopropyl ether successively, and dried to give (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one as a white crystalline powder (6.17 g, 63.5%).

reactant | N-benzyloxycarbonyl-2-(benzotriazol-1-yl)glycine | 14.11 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)N1N=NC2=C1C=CC=C2 | C16H14N4O4
reactant | oxalyl chloride | 3.77 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-acetyl-6-methylaniline | 4.30 g | C(C)(=O)C1=C(N)C(=CC=C1)C | C9H11NO
reactant | N-methylmorpholine | 8.74 g | CN1CCOCC1 | C5H11NO
reactant | ammonia | 75 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3RS)-3-benzyloxycarbonylamino-5,9-dimethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 6.17 g, 63.5% | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C)C=CC=C2C)=O | C19H19N3O3
